US06320050B1
A solution of 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid (114 mg, 0.39 mmol) in methylene chloride (10 mL) was treated with 1 drop of N,N-dimethylformamide and then cooled to 0° C. The reaction mixture was then treated with a 2.0 M solution of oxalyl chloride in methylene chloride (0.22 mL, 0.44 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of 2-aminopyridine (78 mg, 0.83 mmol) and N,N-diisopropylethylamine (0.16 mL, 0.95 mmol) in tetrahydrofuran (2 mL). The resulting reaction mixture was stirred at 25° C. for 14 h. The reaction mixture was then diluted with water (10 mL) and extracted with methylene chloride (2×15 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, hexanes then 19/1 to 4/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-pyridin-2-yl-propionamide (58 mg, 50%) as a white foam: EI-HRMS m/e calcd for C19H20Cl2N2O (M+) 362.0953, found 362.0955.

reactant | 3-cyclopentyl-2-(3,4-dichlorophenyl)-propionic acid | 0.39 mmol, 114 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyridine | 0.83 mmol, 78 mg | NC1=NC=CC=C1 | C5H6N2
reactant | N,N-diisopropylethylamine | 0.95 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 0.44 mmol, 0.22 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-N-pyridin-2-yl-propionamide | 58 mg, 50% | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC(=C(C=C1)Cl)Cl | C19H20Cl2N2O
